US08865321B2
Synthesis of 6-[[2-(phenylamino)phenyl]amino]-2,4-diphenyl-1,3,5-triazine
44.3 g (240 mmol) of N-phenyl-o-phenylenediamine are initially introduced in THF and cooled to 0° C., and 136.4 ml (818 mmol) of N-ethyldiisopropylamine are added dropwise. The mixture is subsequently stirred at room temperature for a further 1 h. A solution of 64.4 g (240 mmol) of 2-chloro-4,6-diphenyl-1,3,5-triazine, dissolved in 1600 ml of THF, is then added dropwise, and the mixture is stirred at 60° C. for 96 h. After cooling, the solution is stirred with 400 ml of heptane, 80 ml of dichloromethane and 100 ml of ethanol. The solid is washed with toluene and washed by stirring with hot heptane, giving 87.7 g (211 mmol) of a crystalline solid. The overall yield is 88%.

reactant | N-phenyl-o-phenylenediamine | 240 mmol, 44.3 g | C1(=CC=CC=C1)NC1=C(C=CC=C1)N | C12H12N2
reactant | N-ethyldiisopropylamine | 818 mmol, 136.4 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-chloro-4,6-diphenyl-1,3,5-triazine | 240 mmol, 64.4 g | ClC1=NC(=NC(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C15H10ClN3
reactant | heptane | 400 ml | CCCCCCC | C7H16
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 1600 ml | C1CCOC1 | C4H8O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 6-[[2-(phenylamino)phenyl]amino]-2,4-diphenyl-1,3,5-triazine | 211 mmol, 87.7 g, yield is 88% | C1(=CC=CC=C1)NC1=C(C=CC=C1)NC1=NC(=NC(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H21N5
